US07618985B2
To a degassed solution of 1-amino-6-bromoisoquinolin (554 mg), prepared as described in WO 98/47876 (Akzo Nobel N.V.), 3-aminopiperidine-1-carboxylic acid tert-butyl ester (823 mg), 2-(di-tert-butylphosphino)biphenyl and sodium tert-butoxide (367 mg) in dioxane (10 ml) under argon, was added tris(dibenzylidene-acetone)dipalladium(0). The mixture was further degassed with argon then heated at 120° C. for 90 minutes. The mixture was cooled to room temperature then diluted with methanol. The crude mixture was loaded onto a pre-acidified SCX column and the basic products eluted with 2M ammonia in methanol to give a crude residue (700 mg). The residue was purified by preparative HPLC to give 3-(1-aminoisoquinolin-6-ylamino)piperidin-1-carboxylic acid tert-butyl ester. A mixture of the 3-(1-aminoisoquinolin-6-ylamino)-piperidin-1-carboxylic acid tert-butyl ester in dichloromethane (6 ml) and trifluoroacetic acid (3 ml) were stirred at ambient temperature for 3 h. The mixture was concentrated then purified by preparative HPLC followed by loading onto a pre-acidified SCX column and the free base eluted with 2M ammonia in methanol to give 6-(piperidin-3-ylamino)-isoquinolin-1-ylamine, El-MS: m/z=243.7 [M+H]+.

reactant | 1-amino-6-bromoisoquinolin | 554 mg | NC1=NC=CC2=CC(=CC=C12)Br | C9H7BrN2
reactant | 3-aminopiperidine-1-carboxylic acid tert-butyl ester | 823 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)N | C10H20N2O2
reactant | 2-(di-tert-butylphosphino)biphenyl | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 367 mg | CC(C)([O-])C.[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylidene-acetone)dipalladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(1-aminoisoquinolin-6-ylamino)piperidin-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)NC=1C=C2C=CN=C(C2=CC1)N | C19H26N4O2
